US05082974
A mixture of 158 g (0.87 mole) of 4-methylthiophenylacetic acid and 150 ml (2 moles) of thionyl chloride was heated at 90° C. for 2 hours. After completion of the reaction, an excess of thionyl chloride was distilled off under reduced pressure, giving about 120 g of 4-methylthiophenylacetyl chloride as a black oily product. The oily product thus obtained was subjected to the subsequent reaction without isolation and purification.

reactant | 4-methylthiophenylacetic acid | 0.87 mole, 158 g | CSC1=CC=C(C=C1)CC(=O)O | C9H10O2S
reactant | thionyl chloride | 2 moles, 150 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-methylthiophenylacetyl chloride | about 120 g | CSC1=CC=C(C=C1)CC(=O)Cl | C9H9ClOS
